US04563211
4-(1,3-Dioxolan-2-ylmethoxy)-6-methoxy-2-pyrimidinamine
A solution of 8.5 g (0.060 mol) 2-amino-6-methyl-4-pyrimidinone in 45 mL anhydrous dimethylformamide (DMF) was treated with 6.7 g (0.060 mol) potassium t-butoxide then stirred for 10 minutes at ambient temperature. Subsequently, 7.6 mL (0.073 mol) of 2-bromomethyl-1,3-dioxolane was added and the mixture heated to 120° for 3 hours. The DMF was then evaporated under reduced pressure and the residue partitioned between water and ethyl acetate. The aqueous phase was extracted with two additional portions of ethyl acetate then the combined organic phase was washed with water, brine, then dried (MgSO4) and evaporated to an oil. Chromatography on silica gel with 10% ethyl acetate/CH2Cl2 as the eluant afforded 2.3 g of the title compound as a viscous oil. NMR (CDCl3): δ 3.9 (s, 3H), 4.0 (m, 4H), 4.3 (d, J=4 Hz, 2H), 5.15 (NH, br), 5.27 (t, J=4 Hz, 1H), 5.55 (s, 1H) ppm.

reactant | 2-amino-6-methyl-4-pyrimidinone | 0.060 mol, 8.5 g | NC1=NC(=CC(N1)=O)C | C5H7N3O
reactant | potassium t-butoxide | 0.060 mol, 6.7 g | CC(C)([O-])C.[K+]
reactant | 2-bromomethyl-1,3-dioxolane | 0.073 mol, 7.6 mL | BrCC1OCCO1 | C4H7BrO2
solvent | dimethylformamide | 45 mL | CN(C=O)C | C3H7NO
product | 4-(1,3-Dioxolan-2-ylmethoxy)-6-methoxy-2-pyrimidinamine | 2.3 g | O1C(OCC1)COC1=NC(=NC(=C1)OC)N | C9H13N3O4
